US06005118
To a solution of 1-(2,4-difluoro-phenyl)-propan-1-one (21.29 g, 125.1 mmol) in toluene (120 mL) was added sodium acetate (26.75 g, 326.1 mmol) and cyclohexylhydrazine mesylate (34.0 g, 163 mmol). The reaction mixture was heated to reflux in a Dean-Stark apparatus for 12 hours. The reaction was cooled to room temperature and poured into 1 N hydrochloric acid (100 mL). The toluene layer was separated and washed with water (75 mL) and brine (75 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to yield 30.07 g of 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole (98% yield). 1H NMR (400 MHz, CDCl3) d 1.33 (t, 3, J=7.7), 1.35-1.44 (m, 2), 1.47-1.96 (m, 8), 2.93 (q, 2, J=7.7), 4.14-4.22 (m, 1), 6.81 (dt, 1, J=8.9, 2.1), 6.99 (dd, 1, J=9.8, 2.1), 7.40 (ddd, 1, J=8.7, 5.2, 0.4). 13C NMR (100 MHz, CDCl3) d 13.97, 20.53, 25.37, 25.84, 32.32, 58.18, 94.77 (d, J=27.4), 109.11 (d, J=26.0), 119.38, 121.75 (d, J=11.5), 139.89 (d, J=13.0), 146.61, 161.95 (d, J=242).

reactant | 1-(2,4-difluoro-phenyl)-propan-1-one | 125.1 mmol, 21.29 g | FC1=C(C=CC(=C1)F)C(CC)=O | C9H8F2O
reactant | sodium acetate | 326.1 mmol, 26.75 g | C(C)(=O)[O-].[Na+]
reactant | cyclohexylhydrazine mesylate | 163 mmol, 34.0 g | S(C)(=O)(=O)O.C1(CCCCC1)NN
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole | 30.07 g, 98% yield | C1(CCCCC1)N1N=C(C2=CC=C(C=C12)F)CC | C15H19FN2
